US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-thioxopiperazine
A solution of 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-piperazinone (200 mg) in pyridine (10 ml) was combined with phosphorus pentasulfide (80 mg) and stirred at 100° C. for 5 hours. The supernatant of the reaction mixture was concentrated and the residue was purified by a column chromatography on a silica gel (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) to obtain the title compound (35 mg) as a colorless solid.

reactant | 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-piperazinone | 200 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C24H26ClN5O3S
reactant | phosphorus pentasulfide | 80 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-thioxopiperazine | 35 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=S | C24H26ClN5O2S2
